US07399759B2
Example 312 ({3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoyl}amino)acetic acid
tert-Butyl ({3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoyl}amino)acetate (0.27 g, 0.63 mmol) was dissolved in trifluoroacetic acid (1.5 ml), and the mixture was stirred at room temperature for 2.5 hrs. Isopropyl ether was added to the reaction mixture to precipitate crystals, which were collected by filtration and recrystallized from tetrahydrofuran-ethanol to give the titled compound (0.12 g, 49%) as white crystals.

reactant | tert-Butyl ({3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoyl}amino)acetate | 0.63 mmol, 0.27 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCC(=O)NCC(=O)OC(C)(C)C | C22H23N3O4S
reactant | Isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | ({3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoyl}amino)acetic acid | 0.12 g, 49% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCC(=O)NCC(=O)O | C18H15N3O4S
